US06645976B1
(3-Benzyl-8-hydroxy-2-methylindolizin-1-yl)glyoxylamide 36g.
(3-(m-Chlorobenzyl)-2-ethyl-8-hydroxyindolizin-1-yl)glyoxylamide 36h. Mp, 144-146° C. (AcOEt-hexane). 88% Yield.

reactant | (3-(m-Chlorobenzyl)-2-ethyl-8-hydroxyindolizin-1-yl)glyoxylamide | ClC=1C=C(CC2=C(C(=C3C(=CC=CN23)O)C(C(=O)N)=O)CC)C=CC1 | C19H17ClN2O3
solvent | AcOEt hexane | CCOC(=O)C.CCCCCC
product | (3-Benzyl-8-hydroxy-2-methylindolizin-1-yl)glyoxylamide | 88% Yield | C(C1=CC=CC=C1)C1=C(C(=C2C(=CC=CN12)O)C(C(=O)N)=O)C | C18H16N2O3
